US20010027196A1
Following the method of Earley et al. (J. Het. Chem. 1983, 20, 1195), to a stirred solution of 6.9 g (34.4 mmol) 2-benzoyl-3-dimethylaminoacrylonitrile and 20.6 g (114 mmol) guanidine carbonate in 50 ml methanol was added 43 ml (232 mmol) sodium methylate (5.4 M in methanol) and the mixture stirred at room temperature for 2 h. The reaction mixture was then concentrated in vacuo. The residue was resuspended in ethyl acetate and water, and the aqueous phase acidified to pH 8 by addition of hydrochloric acid. The phases were separated and the aqueous phase extracted twice more with ethyl acetate. The combined organic phases were dried over sodium sulfate and concentrated in vacuo. The residue was triturated in a mixture of ethyl acetate, ether, dichloromethane and ethanol, and the resulting crystals were then additionally recrystallised from ethanol/ether to afford 2.83 g (41%) 2-amino-5-cyano-6-phenylpyrimidine as a light yellow crystalline solid. EI-MS m/e (%): 196 (M+, 100), 195 ([M—H]+, 40), 170 ([M—CN]+, 36).

reactant | 2-benzoyl-3-dimethylaminoacrylonitrile | 34.4 mmol, 6.9 g | C(C1=CC=CC=C1)(=O)C(C#N)=CN(C)C | C12H12N2O
reactant | guanidine carbonate | 114 mmol, 20.6 g | C(O)(O)=O.NC(=N)N
reactant | sodium methylate | 232 mmol, 5.4 M, 43 ml | C[O-].[Na+]
solvent | methanol | 50 ml | CO | CH4O
product | 2-amino-5-cyano-6-phenylpyrimidine | 2.83 g, 41% | NC1=NC(=C(C=N1)C#N)C1=CC=CC=C1 | C11H8N4
